US07208629B2
Morpholine (200 μl) was added to a solution of 2-amino-5-chloro-1,3,4-thiadiazole (60 mg) in ethanol (2 ml) and the mixture heated in a sealed vial at 40° C. for 6 hours. The ethanol was evaporated from the cooled reaction under vacuum, the residue diluted with water and filtered. The filtrate was extracted with ethyl acetate (x2), the extracts dried (MgSO4) and the solvent removed under vacuum to give 2-amino-5-morpholinyl-1,3,4-thiadiazole.

reactant | Morpholine | 200 μl | N1CCOCC1 | C4H9NO
reactant | 2-amino-5-chloro-1,3,4-thiadiazole | 60 mg | NC=1SC(=NN1)Cl | C2H2ClN3S
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-amino-5-morpholinyl-1,3,4-thiadiazole | NC=1SC(=NN1)N1CCOCC1 | C6H10N4OS
